US07429609B2
7-Fluoro-1-trityl-3-vinyl-1H-indazole-5-carbonitrile
Under nitrogen atmosphere, 3.32 g of 3-bromo-7-fluoro-1-trityl-1H-indazole-5-carbonitrile was dissolved in 100 mL of toluene, added with 398 mg of tetrakis(triphenylphosphilne)palladium(0) and 2.50 mL of vinyltributyltin, and stirred at 100° C. for 95 minutes. After cooling to room temperature, 10 g of silica gel was added, the solvent was evaporated, followed by purification by silica gel column chromatography, to afford 2.59 g of the title compound as white crystals.

reactant | 3-bromo-7-fluoro-1-trityl-1H-indazole-5-carbonitrile | 3.32 g | BrC1=NN(C2=C(C=C(C=C12)C#N)F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H17BrFN3
reactant | vinyltributyltin | 2.50 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Fluoro-1-trityl-3-vinyl-1H-indazole-5-carbonitrile | 2.59 g | FC=1C=C(C=C2C(=NN(C12)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C)C#N | C29H20FN3
